US05149717
b) 3-(4-trifluoroacetyl-3-hydroxy-2-propylphenoxy)-propyl-triphenylphosphonium bromide
The title compound is prepared analogously to Example 1c) from 3-(4-trifluoroacetyl-3-hydroxy-2-propylphenoxy)-propyl bromide and triphenylphosphine; m.p. 170°-190° C.

reactant | 3-(4-trifluoroacetyl-3-hydroxy-2-propylphenoxy)-propyl bromide | FC(C(=O)C1=C(C(=C(OCCCBr)C=C1)CCC)O)(F)F | C14H16BrF3O3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-(4-trifluoroacetyl-3-hydroxy-2-propylphenoxy)-propyl-triphenylphosphonium bromide | [Br-].FC(C(=O)C1=C(C(=C(OCCC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)CCC)O)(F)F | InChI=1S/C32H30F3O3P.BrH/c1-2-13-27-29(21-20-28(30(27)36)31(37)32(33,34)35)38-22-12-23-39(24-14-6-3-7-15-24,25-16-8-4-9-17-25)26-18-10-5-11-19-26;/h3-11,14-21H,2,12-13,22-23H2,1H3;1H
